US06916837B2
The compound (3-bromo-4-(6-cyano-2-naphthyloxy)nitrobenzene) (1 g) obtained in a previous production example, 2-formylphenyl boronic acid (610 mg) and tetrakis(triphenylphosphine)palladium (0) (150 mg) were heated to reflux and reacted for 6 hours in a mixture of 2 M sodium carbonate aqueous solution (10 ml), toluene (10 ml) and ethanol (10 ml). After cooling to room temperature, water was added and extraction was performed with ethyl acetate. The ethyl acetate layer was washed with saturated saline and dried over magnesium sulfate, and the solvent was distilled off. The residue was purified by silica gel chromatography (200 g, hexane:ethyl acetate=4:1) to obtain 880 mg of 4-(6-cyano-2-naphthyloxy)-3-(2-formylphenyl)nitrobenzene.

reactant | 3-bromo-4-(6-cyano-2-naphthyloxy)nitrobenzene | BrC=1C=C(C=CC1OC1=CC2=CC=C(C=C2C=C1)C#N)[N+](=O)[O-] | C17H9BrN2O3
reactant | 2-formylphenyl boronic acid | 610 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | sodium carbonate | 2 M, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 4-(6-cyano-2-naphthyloxy)-3-(2-formylphenyl)nitrobenzene | 880 mg | C(#N)C=1C=C2C=CC(=CC2=CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C=CC=C1)C=O | C24H14N2O4
